US07399775B2
2-[(2,5-Difluorophenyl)-hydroxymethyl]pyridine
Under an argon atmosphere, a hexane solution of n-butyl lithium (1.53M, 3.92 ml, 6 mmol) was added dropwise to a tetrahydrofuran (10 ml) solution of 2-bromopyridine (572 μl, 6 mmol) at −78° C. and the mixture was stirred for 30 minutes. To the resulting brown solution, 2,5-difluorobenzaldehyde (655 μl, 6 mmol) was added dropwise and the temperature of the mixture was gradually raised to room temperature. Water was added to the reaction mixture, followed by extraction with ethyl acetate. After drying the solvent, the residue obtained by concentration under reduced pressure was purified by silica gel chromatography, whereby the title compound (120 mg, 9%) was obtained as a white solid.

reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 6 mmol, 1.53M, 3.92 ml | C(CCC)[Li]
reactant | 2-bromopyridine | 6 mmol, 572 μl | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2,5-difluorobenzaldehyde | 6 mmol, 655 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[(2,5-Difluorophenyl)-hydroxymethyl]pyridine | FC1=C(C=C(C=C1)F)C(C1=NC=CC=C1)O | C12H9F2NO
